US03988448
72.3 g of N-benzoyl-3-hydroxy-3,3-diphenylpropylamine are added portionwise to the suspension of 16.3 g of lithium aluminum hydride in 1.6 lt of diethyl ether while stirring and cooling with an ice-bath. The mixture is stirred for 2 hours while warming to room temperature and 3 hours while refluxing. It is cooled again and 16.3 g of water, 16.3 ml of 15% aqueous sodium hydroxide and 49 ml water was added in this order, filtered and the residue washed 3 times with 300 ml of warm chloroform. The combined filtrates are dried and evaporated, to yield the N-benzyl-3-hydroxy-3,3-diphenylpropylamine melting at 145°-146°.

reactant | N-benzoyl-3-hydroxy-3,3-diphenylpropylamine | 72.3 g | C(C1=CC=CC=C1)(=O)NCCC(C1=CC=CC=C1)(C1=CC=CC=C1)O | C22H21NO2
reactant | lithium aluminum hydride | 16.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | sodium hydroxide | 16.3 ml | [OH-].[Na+]
solvent | water | 49 ml | O | H2O
solvent | water | 16.3 g | O | H2O
product | N-benzyl-3-hydroxy-3,3-diphenylpropylamine | C(C1=CC=CC=C1)NCCC(C1=CC=CC=C1)(C1=CC=CC=C1)O | C22H23NO
